US06498159B1
3.8 g of N-[4-methoxy-3-(trifluoromethyl)benzyl]formamide was dissolved in 20 ml ethanol, 2 ml conc. hydrochloric acid was added thereto, and the mixture was heated under reflux for 3 hr. After cooling, diethyl ether was added thereto, and the resulting crystals were collected by filtration to give 2.5 g of 4-methoxy-3-(trifluoromethyl)benzylamine hydrochloride.

reactant | N-[4-methoxy-3-(trifluoromethyl)benzyl]formamide | 3.8 g | COC1=C(C=C(CNC=O)C=C1)C(F)(F)F | C10H10F3NO2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-methoxy-3-(trifluoromethyl)benzylamine hydrochloride | 2.5 g | Cl.COC1=C(C=C(CN)C=C1)C(F)(F)F | InChI=1S/C9H10F3NO.ClH/c1-14-8-3-2-6(5-13)4-7(8)9(10,11)12;/h2-4H,5,13H2,1H3;1H
